US08871790B2
Compound 41.1. 5-Nitro-2-(pyrrolidin-1-yl)pyridine
A mixture of 2-chloro-5-nitropyridine (1.58 g, 10.00 mmol, 1.00 equiv), pyrrolidine (710 mg, 10.00 mmol, 1.00 equiv) and potassium carbonate (2.76 g, 20.00 mmol, 2.00 equiv) in CH3CN (20 mL) was stirred at 60° C. in an oil bath. After 2 h, the reaction mixture was allowed to reach ambient temperature. The solids were filtered off and the filtrate was concentrated under reduced pressure. The residue was triturated with 1×20 mL of petroleum ether to yield 1.8 g (93%) of the title compound as a yellow solid.

reactant | 2-chloro-5-nitropyridine | 10.00 mmol, 1.58 g, 1.00 equiv | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | pyrrolidine | 10.00 mmol, 710 mg, 1.00 equiv | N1CCCC1 | C4H9N
reactant | potassium carbonate | 20.00 mmol, 2.76 g, 2.00 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | CH3CN | 20 mL | CC#N | C2H3N
product | 5-Nitro-2-(pyrrolidin-1-yl)pyridine | 1.8 g, 93% | [N+](=O)([O-])C=1C=CC(=NC1)N1CCCC1 | C9H11N3O2
